US07897593B2
Benzyl 4-(4-(tert-butyldimethylsilyloxy)butyl)-4-cyanopiperidine-1-carboxylate.
To a stirred solution of benzyl 4-cyanopiperidine-1-carboxylate (10 g, 41 mmol) and iodo-tert-butyldimethylsilane butane (12.6 mL, 49 mmol) in THF (80 mL) cooled to −78° C. was added LiHMDS (50 mL, 50 mmol, 1M in THF) dropwise over 30 min. The resulting mixture was stirred while gradually warming to room temperature for 18 h. After quenching with water, the organic phase was diluted with EtOAc and washed with water, brine and dried (Na2SO4). After concentration, the residue was purified by flash chromatography (10% to 20% EtOAc/hexane) to give the title compound as yellow oil (11.88 g, 67% yield). 1H NMR (300 MHz, CDCl3) δ: 7.34-7.28 (5H, m), 5.09 (2H, s), 4.17 (2H, bs), 3.59 (2H, t, J=5.3 Hz), 3.07 (2H, bs), 1.89 (2H, d, J=13.2 Hz), 1.53 (6H, bs), 1.43-1.34 (2H, m), 0.85 (9H, s), 0.01 (6H, s). LCMS (M+H): 431.20.

reactant | benzyl 4-cyanopiperidine-1-carboxylate | 41 mmol, 10 g | C(#N)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H16N2O2
reactant | iodo-tert-butyldimethylsilane butane | 49 mmol, 12.6 mL | CCCC.I[Si](C)(C)C(C)(C)C
reactant | LiHMDS | 50 mmol, 1M, 50 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(4-(tert-butyldimethylsilyloxy)butyl)-4-cyanopiperidine-1-carboxylate | 11.88 g, 67% yield | [Si](C)(C)(C(C)(C)C)OCCCCC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C#N | C24H38N2O3Si
